US04436748
A mixture of 4.47 g of ethyl[ (6,7-dichloro-2-phenylbenzo[b]thien-5-yl)oxy]acetate and 150 ml of 95% ethanol was treated with 150 ml of 20% sodium hydroxide solution. The mixture is refluxed for 3 hours and concentrated in vacuo to remove ethanol. Acidification at 0°-10°, followed by ether extraction, yields 3.9 g of [(6,7-dichloro-2-phenylbenzo[b]thien-5-yl)oxy]acetic acid as white needles, mp 209°-211°.

reactant | ethyl[ (6,7-dichloro-2-phenylbenzo[b]thien-5-yl)oxy]acetate | 4.47 g | C(C)OC(COC1=CC2=C(SC(=C2)C2=CC=CC=C2)C(=C1Cl)Cl)=O | C18H14Cl2O3S
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | [(6,7-dichloro-2-phenylbenzo[b]thien-5-yl)oxy]acetic acid | 3.9 g | ClC=1C(=CC2=C(SC(=C2)C2=CC=CC=C2)C1Cl)OCC(=O)O | C16H10Cl2O3S
